US09379335B2
Stille Polymerization with Dithienopyrrole (See FIG. 19)
A mixture of 1,5-dihexyl-3,7-di-(5-bromothiophen-2-yl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione (0.083 g, 0.123 mmol), 2,6-bis(trimethylstannyl)-4-[3,4,5-tris(dodecyloxy)phenyl]-4H-dithieno[3,2-b:2′,3′-d]pyrrole (0.167 g, 0.147 mmol), Pd2(dba)3 (3 mg), (o-tol)3P (4.5 mg) and toluene (10 mL) was heated at reflux for 24 h. 2-bromothiophene (0.070 g, 0.44 mmol) in toluene (1 mL) was added and the resulting mixture was stirred for another 12 h. Then after cooling to room temperature, the mixture was dropped into methanol to precipitate. After being filtered and dried, the precipitation was Soxhlet extracted with methanol, acetone, hexane, dichloromethane and chloroform in succession. The chloroform solution was concentrated and reprecipitated in methanol. The solid was filtered and dried to yield (0.140 g, 85.9%) as a black solid.

reactant | 1,5-dihexyl-3,7-di-(5-bromothiophen-2-yl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione | 0.123 mmol, 0.083 g | C(CCCCC)N1C(C(=C2C1=CC1=C(C(N(C1=C2)CCCCCC)=O)C=2SC(=CC2)Br)C=2SC(=CC2)Br)=O | C30H32Br2N2O2S2
reactant | 2,6-bis(trimethylstannyl)-4-[3,4,5-tris(dodecyloxy)phenyl]-4H-dithieno[3,2-b:2′,3′-d]pyrrole | 0.147 mmol, 0.167 g | C[Sn](C1=CC2=C(C3=C(N2C2=CC(=C(C(=C2)OCCCCCCCCCCCC)OCCCCCCCCCCCC)OCCCCCCCCCCCC)C=C(S3)[Sn](C)(C)C)S1)(C)C
reactant | 2-bromothiophene | 0.44 mmol, 0.070 g | BrC=1SC=CC1 | C4H3BrS
reactant | methanol | CO | CH4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Dithienopyrrole | S1C=CC2=C1C1=C(N2)SC=C1 | C8H5NS2
